** sch_path: /foss/designs/CHIP-PLL/charge_pump/vbias.sch
.subckt vbias vp gd vbias
*.opin vbias
*.iopin gd
*.iopin vp
M2 net2 net2 gd gd sg13_lv_nmos w=1.2u l=0.6u ng=1
M3 vbias net1 net2 gd sg13_lv_nmos w=3.6u l=0.6u ng=1
M13 net1 iref vp vp sg13_lv_pmos w=1.2u l=0.6u ng=1
R2 net1 vbias rppd w=1e-6 l=1.70e-6 m=1 b=0
x1 vp iref gd curr_source
M1 gd gd gd gd sg13_lv_nmos w=1.86u l=0.6u ng=1
M4 vp vp vp vp sg13_lv_pmos w=1.375u l=0.6u ng=1
.ends

* expanding   symbol:  curr_source.sym # of pins=3
** sym_path: /foss/designs/CHIP-PLL/charge_pump/curr_source.sym
** sch_path: /foss/designs/CHIP-PLL/charge_pump/curr_source.sch
.subckt curr_source vp iref gd
*.iopin vp
*.iopin gd
*.opin iref
M4 iref iref vp vp sg13_lv_pmos w=1.4u l=0.6u ng=1
M5 net2 iref vp vp sg13_lv_pmos w=1.2u l=0.6u ng=1
M6 net3 net3 gd gd sg13_lv_nmos w=1u l=0.6u ng=1
M3 net2 net2 gd gd sg13_lv_nmos w=1.4u l=0.6u ng=1
R2 net1 gd rppd w=1e-6 l=1.70e-6 m=1 b=0
M1 iref net2 net1 gd sg13_lv_nmos w=1.2u l=0.6u ng=1
M2 vp net3 iref gd sg13_lv_nmos w=1u l=0.6u ng=1
M7 vp vp net3 gd sg13_lv_nmos w=1u l=0.6u ng=1
M8 gd gd gd gd sg13_lv_nmos w=0.4u l=0.6u ng=1
.ends

.end
