** sch_path: /foss/designs/CHIP-PLL/schematics/charge_pump/vbias.sch
.subckt vbias vp gd vbias
*.PININFO vbias:O gd:B vp:B
MM5 net1 iref vp vp sg13_lv_pmos w=1.2u l=0.6u ng=1
MM6 vbias net1 net2 gd sg13_lv_nmos w=3.6u l=0.6u ng=1
MM2 net2 net2 gd gd sg13_lv_nmos w=1.2u l=0.6u ng=1
MM3 gd gd gd gd sg13_lv_nmos w=1.86u l=0.6u ng=1
MM7 vp vp vp vp sg13_lv_pmos w=1.375u l=0.6u ng=1
RR1 net1 vbias 509.4 $SUB=gd $[rppd] w=1e-6 l=1.7e-6 b=0
x1 vp iref gd curr_source
.ends

* expanding   symbol:  curr_source.sym # of pins=3
** sym_path: /foss/designs/CHIP-PLL/schematics/charge_pump/curr_source.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/charge_pump/curr_source.sch
.subckt curr_source vp iref gd
*.PININFO vp:B gd:B iref:O
MM9 net3 net3 gd gd sg13_lv_nmos w=1u l=0.6u ng=1
MM4 iref iref vp vp sg13_lv_pmos w=1.4u l=0.6u ng=1
MM5 net2 iref vp vp sg13_lv_pmos w=1.2u l=0.6u ng=1
MM10 iref net2 net1 gd sg13_lv_nmos w=1.2u l=0.6u ng=1
MM1 net2 net2 gd gd sg13_lv_nmos w=1.4u l=0.6u ng=1
MM3 vp vp net3 gd sg13_lv_nmos w=1u l=0.6u ng=1
MM6 vp net3 iref gd sg13_lv_nmos w=1u l=0.6u ng=1
MM2 gd gd gd gd sg13_lv_nmos w=0.4u l=0.6u ng=1
RR2 net1 gd 509.4 $SUB=gd $[rppd] w=1e-6 l=1.7e-6 b=0
.ends

